US04871730
To a solution of benzhydryl 7-amino-3-mesyloxy-3cephem-4-carboxylate (6.91 g) and bis(trimethylsilyl)-urea (18.4 g) in methylene chloride (69 ml) was added 2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride (syn isomer) (4.08 g) at -10° C. under stirring and the mixture was stirred at the same temperature for 30 minutes. After the reaction mixture was added to a stirred mixture of water and methylene chloride, the solution was adjusted to pH 7.0 with a saturated aqueous solution of sodium bicarbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give benzhydryl 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-mesyloxy-3-cephem-4-carboxylate (syn isomer) (8.90 g).

reactant | benzhydryl 7-amino-3-mesyloxy-3cephem-4-carboxylate | 6.91 g | NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H20N2O6S2
reactant | bis(trimethylsilyl)-urea | 18.4 g | C[Si](C)(C)NC(=O)N[Si](C)(C)C | C7H20N2OSi2
reactant | 2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride | 4.08 g | Cl.C(C=C)ON=C(C(=O)Cl)C1=NSC(=N1)N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 69 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | benzhydryl 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-mesyloxy-3-cephem-4-carboxylate | 8.90 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C28H26N6O8S3
